US09289419B2
Synthesis of 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-((S)-1-sulfamoylpyrrolidin-3-yl)pyrazolo[1,5-a]pyridine-3-carboxamide
The title compound was prepared by the method substantially similar to that mentioned in Example-98, using 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-((S)-pyrrolidin-3-yl)pyrazolo[1,5-a]pyridine-3-carboxamide (Example-82) and Sulfamide to afford the crude, which was purified by Preparative HPLC [Column: 21.2×250×7 um, Zorbax, XDB,C-18(#22), Mobile phase-A: 10 mmol.NH4OAc in water, B: ACN, Gradient (Time/% B): 0/30, 2/30, 8/90 and Flow rate: 20 mL/min] to afford 26 mg of the title compound.

reactant | 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-((S)-pyrrolidin-3-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)N[C@@H]2CNCC2 | C22H23F2N5O
reactant | Sulfamide | S(=O)(=O)(N)N | H4N2O2S
product | 5-((R)-2-(2,5-difluorophenyl)pyrrolidin-1-yl)-N-((S)-1-sulfamoylpyrrolidin-3-yl)pyrazolo[1,5-a]pyridine-3-carboxamide | 26 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)N[C@@H]2CN(CC2)S(N)(=O)=O | C22H24F2N6O3S
